US07977358B2
B) (cis)-3-Methyl-4-(4-nitro-benzoyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of intermediate 24A (0.8 g, 4 mmol), triphenylphosphine (1.1 g, 4 mmol), 4-nitrobenzoic acid (0.7 g, 4 mmol) in toluene (10 ml) cooled to 0° C. is added diisopropylazodicarboxylate (0.9 ml, 4 mmol) dropwise. The reaction is then allowed to reach room temperature and stirred for 16 h after which time the reaction mixture was absorbed onto silica gel and purified by flash column chromatography (EtOAc:n-heptane 2:8). The title product was thus obtained as a white solid (1.0 g, 79%). MS: 351.3 (MH+).

reactant | triphenylphosphine | 4 mmol, 1.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 4 mmol, 0.7 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diisopropylazodicarboxylate | 4 mmol, 0.9 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (cis)-3-Methyl-4-(4-nitro-benzoyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C17H22N2O6
